US04234594
2-[1(4-chloro-2-methylphenyl)-3-methyl-5-pyrazolyl] amino-2-imidazoline HCl
1-Acetyl-2[1-(4-chloro-2-methylphenyl)-3-methyl-5-pyrazolyl] amino-2-imidazoline (10.0 g.) was treated with HCl in methanol as described in Example II to give 7.4 g. product as the HCl salt, mp 134°-135°.

reactant | 1-Acetyl-2[1-(4-chloro-2-methylphenyl)-3-methyl-5-pyrazolyl] amino-2-imidazoline | 10.0 g | C(C)(=O)N1C(=NCC1)NC1=CC(=NN1C1=C(C=C(C=C1)Cl)C)C | C16H18ClN5O
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-[1(4-chloro-2-methylphenyl)-3-methyl-5-pyrazolyl] amino-2-imidazoline HCl | Cl.ClC1=CC(=C(C=C1)N1N=C(C=C1NC=1NCCN1)C)C | InChI=1S/C14H16ClN5.ClH/c1-9-7-11(15)3-4-12(9)20-13(8-10(2)19-20)18-14-16-5-6-17-14;/h3-4,7-8H,5-6H2,1-2H3,(H2,16,17,18);1H
